Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([H:8])([H:9])([H:10])[H:15].[C:4](=[C:5]([H:14])[H:16])([C:6]#[N:7])[H:13].[O:2]=[C:3]([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],64.02577383923679
[C:1]([O:3][C:2]([O:7]/[C:6](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],71.81792586358608
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5]([C:3]#[O+:4])=[N-:6])([H:7])([H:8])[H:9],66.1353653926534
[C:1]([C-:2]1[C:3]([H:11])([H:12])[C@:4]1([C:5]#[O+:6])[H:13])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],38.46892313273389
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C@@:2]2([H:8])[C@@:3](/[N:5]=[C:6](\[O:7][H:11])[H:12])([H:9])[C@@:4]12[H:10],82.33683880832271
[H:9][H:11].[O:1]=[C:2](/[N:3]=[C:4](/[C:5]([C:6]#[C:7][H:14])([H:12])[H:13])[H:10])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],68.3511516831528
[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6]>>[N:3](=[N+:4]=[N-:5])[H:6].[O+:1]#[C-:2],53.326161667307
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]1=[N:5][C:6]([H:13])([H:14])[O:4]1)[H:10])([H:7])([H:8])[H:9].[H:11][H:12],98.7475611048581
[C:1]([C:2]=[N:3][H:11])([H:8])([H:9])[H:10].[O:4]1[C:5]([H:12])([H:13])[C@@:6]1([O:7])[H:14]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],0.1255411284570016
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([H:15])[H:16])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])(=[O:7])[H:17].[H:11][H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],38.2813446264584
[C:1]([C:3](=[C:2]=[N:6][N:5]=[O:4])[H:10])([H:7])([H:8])[H:9]>>[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9],58.3134231265592
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10].[C:7]([H:8])([H:16])([H:17])[H:18],87.2564611706563
[N:1]#[C:2][C:3]#[N:4]>>[N-:1]=[N:4][C:3]#[C+:2],158.654348744115
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([H:11])[C@@:4]([O:6][C:7]([H:13])([H:14])[H:15])([H:12])[O:5]1)([H:8])([H:9])[H:10],65.3623748800435
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2]/[C:3](=[N:5]/[C:4]([H:7])([H:8])[H:9])[H:6],64.6012170203971
[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:3](=[C:2]=[N:6][N:5]=[O:4])[H:10])([H:7])([H:8])[H:9],102.846903990947
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[C:4](\[O:5][O:3][H:10])[H:11])[H:9])([H:6])([H:7])[H:8],95.64559771719841
[C-:6]#[O+:7].[C:1]([C:2]([C:4]([C:3]([H:11])([H:12])[H:15])([H:13])[H:14])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],58.7158670006633
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:8])[H:10].[O:1]([C:2](=[C:3]=[O:4])[H:9])[H:7],54.89213375438281
[N:1](=[C:2](/[O:3][C:4]([C:5](=[C:6]=[N:7][H:13])[H:12])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],58.8905470995731
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]([O:7][H:15])[H:13],68.3133695294429
[C:1]([O:5]/[C:4](=[C:2](\[O:3][H:10])[H:9])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],68.48351730561171
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:5]#[C:6][H:11])([H:7])([H:8])[H:9].[N:2](=[C:3]=[O:4])[H:10],93.26524000231319
[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:6](=[C:4]=[O:5])[C:7]1([H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],70.90663289367461
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C:3]([H:10])([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])[H:9],71.1101744852181
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[C:4](#[N:5])[H:10].[O:1](/[C:2](=[C:3](/[C:6]#[C:7][H:12])[H:11])[H:9])[H:8],90.13994147439459
[O+:1](=[C:2]([C:5](=[C:3]=[O:4])[H:8])[H:7])[O-:6]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],72.89322060349299
